US06774136B2
The reaction of 9.5 ml (0.096 mol) piperidine and 4.7 ml (0.040 mol) 2-methylbenzaldehyde in accordance with general synthesis instructions 2 and subsequent reaction with 2.4 ml (0.040 mol) acetyl chloride in accordance with general synthesis instructions 3 gave 5.8 g (corresponding to 65% of the yield calculated by theory) 1-(2-methyl-benzylidene)-piperidinium chloride.

reactant | piperidine | 0.096 mol, 9.5 ml | N1CCCCC1 | C5H11N
reactant | 2-methylbenzaldehyde | 0.040 mol, 4.7 ml | CC1=C(C=O)C=CC=C1 | C8H8O
reactant | acetyl chloride | 0.040 mol, 2.4 ml | C(C)(=O)Cl | C2H3ClO
product | 1-(2-methyl-benzylidene)-piperidinium chloride | [Cl-].CC1=C(C=[N+]2CCCCC2)C=CC=C1 | InChI=1S/C13H18N.ClH/c1-12-7-3-4-8-13(12)11-14-9-5-2-6-10-14;/h3-4,7-8,11H,2,5-6,9-10H2,1H3;1H/q+1;/p-1
